US04508717
1-Hydroxybenzotriazole (3.24 g) and N,N'-dicyclohexylcarbodiimide (4.95 g) are added to a solution, cooled to +5° C., of 7-amino-2-benzhydryloxycarbonyl-8-oxo-3-[2-(pyridin-3-yl-amino)-thiazol-5-yl]-5-thia-1-azabicyclo[ 4.2.0]oct-2-ene (10.83 g) and the syn isomer of 2-(2-tritylaminothiazol-4-yl)-2-[(2-t-butoxycarbonylprop-2-yl)-oxyimino]-acetic acid (13.72 g) in anhydrous N,N-dimethylformamide (200 cc). The mixture is stirred for 30 minutes at 5° C. and for 3 hours 30 minutes at 22° C. Acetic acid (1 cc) is added, the mixture is then filtered, the precipitate is washed with dimethylformamide (20 cc) and the filtrate is diluted with ethyl acetate (900 cc). The organic phase is washed with distilled water (2×500 cc), a 0.1 N aqueous solution of hydrochloric acid (500 cc), a semi-saturated solution of sodium bicarbonate (500 cc), distilled water (2×500 cc) and a saturated solution of sodium chloride (500 cc). It is dried over anhydrous magnesium sulphate; the mixture is filtered and the filtrate is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C. The residue is purified by chromatography on a column (height=63 cm, diameter=4.8 cm), containing silica gel (0.06-0.20 mm), elution being carried out under a pressure of 0.4 bar with a mixture of cyclohexane and ethyl acetate (50/50 by Volume) (4 liters) and 250 cc fractions being collected. Fractions 8 to 14, containing the pure product, are combined and concentrated under reduced pressure (30 mm Hg: 4 kPa) at 30° C. to give the syn isomer of 2-benzhydryloxycarbonyl-7-{2-[(2-t-butoxycarbonylprop-2-yl)-oxyimino]-2-(2-tritylaminothiazol-4-yl)-acetamido}-8-oxo-3-[2-(pyridin-3-yl-amino)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0] oct-2-ene (4.65 g) in the form of a hard yellow foam.

reactant | 1-Hydroxybenzotriazole | 3.24 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N'-dicyclohexylcarbodiimide | 4.95 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 7-amino-2-benzhydryloxycarbonyl-8-oxo-3-[2-(pyridin-3-yl-amino)-thiazol-5-yl]-5-thia-1-azabicyclo[ 4.2.0]oct-2-ene | 10.83 g | NC1C2SCC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CN=C(S1)NC=1C=NC=CC1 | C28H23N5O3S2
reactant | 2-(2-tritylaminothiazol-4-yl)-2-[(2-t-butoxycarbonylprop-2-yl)-oxyimino]-acetic acid | 13.72 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOC(C)(C)C(=O)OC(C)(C)C | C32H33N3O5S
solvent | N,N-dimethylformamide | 200 cc | CN(C=O)C | C3H7NO
solvent | Acetic acid | 1 cc | C(C)(=O)O | C2H4O2
product | 2-benzhydryloxycarbonyl-7-{2-[(2-t-butoxycarbonylprop-2-yl)-oxyimino]-2-(2-tritylaminothiazol-4-yl)-acetamido}-8-oxo-3-[2-(pyridin-3-yl-amino)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0] oct-2-ene | 4.65 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)NC=1C=NC=CC1)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC(C)(C)C(=O)OC(C)(C)C)=O)=O | C60H54N8O7S3
